US07241810B2
Preparation 35: 1-(3-Bromophenyl)-2-methylpropan-2-ol)
Methylmagnesium bromide (3M solution in diethyl ether, 51.6 mL, 155 mmol) was slowly added to a solution of 1-(3-bromo-phenyl)propan-2-one (15.0 g, 70 mmol) in dry diethyl ether (200 mL) at 0° C. and the mixture was stirred for 3 hours. The reaction mixture was then re-cooled to 0° C. and slowly quenched with saturated aqueous ammonium chloride solution. The organic solution was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residual yellow oil was then purified by column chromatography on silica gel eluting with dichloromethane:pentane:methanol, 90:5:5, to afford a pale yellow oil in 83% yield, 13.26 g. 1H NMR (400 MHz, CDCl3) δ: 1.22 (6H, s), 1.42 (1H, bs), 2.74 (2H, s), 7.15 (2H, m), 7.40 (2H, m)

reactant | Methylmagnesium bromide | 155 mmol, 3M, 51.6 mL | C[Mg]Br
reactant | 1-(3-bromo-phenyl)propan-2-one | 70 mmol, 15.0 g | BrC=1C=C(C=CC1)CC(C)=O | C9H9BrO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1-(3-Bromophenyl)-2-methylpropan-2-ol | 83% yield | BrC=1C=C(C=CC1)CC(C)(O)C | C10H13BrO
